### PR TITLE
Has been sent/received for full node clients and validators

### PR DESCRIPTION
**Pull request by traiansf**
Had to change the validity condition to not allow duplicate receives nor receives when sending.

### CODE REVIEW

File: CBC/Equivocation.v [hunk 1]
```diff
@@ -14,83 +14,139 @@ From CasperCBC
...
+  **)
+
+  Class basic_equivocation
+    (state validator : Type)
+    {measurable_V : Measurable validator}
+    {reachable_threshold : ReachableThreshold validator}
+    :=
+    { is_equivocating_fn (s : state) (v : validator) : bool
+
+      (** retrieves a set containing all possible validators for a state. **)
```
Comment (mcalancea) [inline CBC/Equivocation.v:43]: Perhaps expand on what "all possible validators for a state" means?

File: CBC/Equivocation.v [hunk 2]
```diff
@@ -14,83 +14,139 @@ From CasperCBC
...
+      (msg : message)
+      (msgs : set message)
+      :=
+      existsb (equivocating_with msg) msgs
+  }.
+
+(** ** Equivocation for states encapsulating messages
+
+The definition below assumes that one can [get_messages] associated to
+states, and these messages are equiped with [message_equivocation_evidence].
```
Comment (mcalancea) [inline CBC/Equivocation.v:117]: - Maybe it's useful to describe in more detail what "messages associated to states" refers to exactly (sent/received/both?). 
- equiped -> equipped.

File: Lib/ListExtras.v [hunk 3]
```diff
@@ -197,6 +197,24 @@ Proof.
       * apply IHl; assumption.
 Qed.
 
+Lemma filter_nodup
```
Comment (mcalancea) [inline Lib/ListExtras.v:200]: It looks like [this already exists.](https://coq.inria.fr/library/Coq.Lists.List.html#NoDup_filter) I don't really mind though.

**Review by mcalancea — APPROVED** [review]
